US09079866B2
Step A: N-(2-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-2-methylpropane-sulfonamide
The title compound was prepared using methods analogous to those described in Step B of Example 490 using 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline and isobutylsulfonyl chloride. 1H NMR (400 MHz, CDCl3) δ 8.48 (s, 1H), 7.81-7.75 (m, 1H), 7.63-7.58 (m, 1H), 7.49-7.41 (m, 1H), 7.14-7.06 (m, 1H), 2.96 (d, J=10.1, 2H), 2.39-2.19 (m, 1H), 1.37 (s, 12H), 1.11-0.99 (m, 6H).

reactant | 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | CC1(OB(OC1(C)C)C1=C(N)C=CC=C1)C | C12H18BNO2
reactant | isobutylsulfonyl chloride | C(C(C)C)S(=O)(=O)Cl | C4H9ClO2S
product | N-(2-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-2-methylpropane-sulfonamide | CC1(OB(OC1(C)C)C1=C(C=CC=C1)NS(=O)(=O)CC(C)C)C | C16H26BNO4S
